US06723749B2
2(a) (4-Nitro-phenoxy)-2-phenyl-acetic acid ethyl ester
To a suspension of cesium carbonate (2.51 g, 7.70 mmol) in DMF (30 mL) was added 4-nitrophenol(1.07 g, 7.70 mmol). After stirring at room temperature under argon for 30 minutes, ethyl-alpha-bromophenylacetate (1.70 g, 7.00 mmol) was added to the suspension and the resulting mixture was stirred at room temperature overnight. The reaction was then quenched with water and extracted with EtOAc. The organic extracts were washed with water, brine, and dried over Na2SO4. After removing the solvent under reduced pressure, the crude product was used in the next reaction without further purification. 1H NMR (400 MHz, CDC3) δ8.20 (d, 2H) 7.60-7.37 (m, 5H), 7.05 (d, 2H), 5.70 (s, 1H), 4.20 (m, 2H), 1.22 (t, 3H). MH+ 303.

reactant | cesium carbonate | 7.70 mmol, 2.51 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-nitrophenol | 7.70 mmol, 1.07 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | ethyl-alpha-bromophenylacetate | 7.00 mmol, 1.70 g | C(C)OC(C(Br)C1=CC=CC=C1)=O | C10H11BrO2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | (4-Nitro-phenoxy)-2-phenyl-acetic acid ethyl ester | C(C)OC(C(C1=CC=CC=C1)OC1=CC=C(C=C1)[N+](=O)[O-])=O | C16H15NO5
